US05583130
Step B: 3-Benzyloxycarbonylamino-3-methylbutanoic acid, methyl ester
To 14.7 g (91.8 mmol) of 2,2-dimethylbutanedioic acid-4-methyl ester in 150 mL of benzene was added 13 mL of triethylamine (9.4 g, 93 mmol) followed by 21.8 mL of diphenylphosphoryl azide (27.8 g, 101 mmol). The mixture was heated under nitrogen at reflux for 45 minutes, then 19 mL (19.9 g, 184 mmol) of benzyl alcohol was added and refluxing continued for 16 hours. The mixtue was cooled, filtered and the filtrate concentrated to a minimum volume under vacuum. The residue was redissolved in 250 mL of ethyl acetate, washed with water, saturated aqueous sodium bicarbonate (2×) and brine. The organic layer was removed, dried over magnesium sulfate, filtered and the filtrate concentrated to a minimum volume under vacuum. The crude product was purified by medium pressure liquid chromatography on silica, eluting with hexane/ethyl acetate (4:1), to afford 18.27 g (68.9 mmol, 75%) of the product. 1H NMR (200 MHz, CDCl3): 1.40 (s, 6H), 2.69 (s, 2H), 3.63 (s, 3H), 5.05 (s, 2H), 5.22 (br s, 1H), 7.32 (s, 5H).

reactant | 2,2-dimethylbutanedioic acid-4-methyl ester | 91.8 mmol, 14.7 g | COC(CC(C(=O)O)(C)C)=O | C7H12O4
reactant | triethylamine | 93 mmol, 13 mL, 9.4 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 101 mmol, 21.8 mL, 27.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 184 mmol, 19 mL, 19.9 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | 3-Benzyloxycarbonylamino-3-methylbutanoic acid, methyl ester | 68.9 mmol, 18.27 g, 75% | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)OC)(C)C | C14H19NO4
